US05691323
A mixture of 0.65 g of ethyl 2-amino-5-pyrimidinecarboxylate (P. Schenone, L. Sansebastiano and L. Mosti, J. Heterocyclic Chem., 1990, 27, 295-305), 1.7 g of di-tert-butyldicarbonate and 50 mL of dichloromethane was allowed to stir overnight then concentrated under reduced pressure. After drying under vacuum, there was obtained 0.75 g of ethyl 2-tert-butoxycarbonylamino-5-pyrimidinecarboxylate as a solid: 1H NMR (400 MHz, CDCl3) 9.23 (s, 2H), 4.42 (q, 2H), 1.5 (s, 9H), 1.45 (t, 3H).

reactant | ethyl 2-amino-5-pyrimidinecarboxylate | 0.65 g | NC1=NC=C(C=N1)C(=O)OCC | C7H9N3O2
reactant | di-tert-butyldicarbonate | 1.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | ethyl 2-tert-butoxycarbonylamino-5-pyrimidinecarboxylate | 0.75 g | C(C)(C)(C)OC(=O)NC1=NC=C(C=N1)C(=O)OCC | C12H17N3O4
